* C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\Simulating_Multiplier_4_4_delay_for_clk.asc
V1 N001 0 5
V2 N002 0 PULSE(0 5 0 2n 1n 0 3m)
V3 N003 0 PULSE(0 5 0 2n 1n 0 3m)
XX1 N003 N003 0 N003 N002 N002 N001 0 0 C5 C4 C3 C2 C1 C0 0 C6 0 C7 mult_4_4

* block symbol definitions
.subckt mult_4_4 A0 A1 A2 A3 B0 B1 VDD A3_GND Cin C5 C4 C3 C2 C1 C0 B2 C6 B3 C7
XX1 A0 VDD C0 B0 and_gate
XX2 A3 VDD N022 B0 and_gate
XX3 A2 VDD N023 B0 and_gate
XX4 A1 VDD N021 B0 and_gate
XX5 A3_GND N022 N023 N021 N016 N014 N013 C1 N019 N010 N008 VDD N007 N005 Cin rca_
XX6 A0 VDD N005 B1 and_gate
XX7 A3 VDD N010 B1 and_gate
XX8 A2 VDD N008 B1 and_gate
XX9 A1 VDD N007 B1 and_gate
XX10 N019 N016 N014 N013 N018 N017 N015 C2 N020 N012 N001 VDD N009 N002 Cin rca_
XX11 A0 VDD N002 B2 and_gate
XX12 A3 VDD N012 B2 and_gate
XX13 A2 VDD N001 B2 and_gate
XX14 A1 VDD N009 B2 and_gate
XX15 A0 VDD N006 B3 and_gate
XX16 A3 VDD N011 B3 and_gate
XX17 A2 VDD N003 B3 and_gate
XX18 A1 VDD N004 B3 and_gate
XX19 N020 N018 N017 N015 C6 C5 C4 C3 C7 N011 N003 VDD N004 N006 Cin rca_
.ends mult_4_4

.subckt and_gate A VDD Vout B
XX1 A B N001 VDD nand_gate
XX2 N001 VDD Vout inverter
.ends and_gate

.subckt rca_ A3 A2 A1 A0 S3 S2 S1 S0 Carry B3 B2 VDD B1 B0 Cin
XX1 N001 B3 A3 VDD Carry S3 full_adder
XX2 N002 B2 A2 VDD N001 S2 full_adder
XX3 N003 B1 A1 VDD N002 S1 full_adder
XX4 Cin B0 A0 VDD N003 S0 full_adder
.ends rca_

.subckt nand_gate A B Vout VDD
M5 N001 A 0 0 NMOS
M6 Vout A VDD VDD PMOS
M7 Vout B VDD VDD PMOS
M8 Vout B N001 N001 NMOS
.inc "C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\CD4007.mod"
.ends nand_gate

.subckt inverter Vin VDD Vout
M1 Vout Vin VDD VDD RIT4007P7
M2 Vout Vin 0 0 RIT4007N7
.inc "C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\CD4007.mod"
.ends inverter

.subckt full_adder Cin B A VDD Carry Sum
XX1 VDD A B Cin Sum fuller_adder_sum
XX2 Carry VDD B A Cin fuller_adder_carry
.ends full_adder

.subckt fuller_adder_sum VDD A B Cin Sum
XX1 A_not B_not Cin VDD N001 and_3
XX2 A_not B Cin_not VDD N002 and_3
XX3 A B_not Cin_not VDD N005 and_3
XX4 A B Cin VDD N006 and_3
XX7 N002 N001 N003 VDD or_gate
XX8 N006 N005 N004 VDD or_gate
XX9 N004 N003 Sum VDD or_gate
XX11 B VDD B_not inverter
XX12 A VDD A_not inverter
XX13 Cin VDD Cin_not inverter
.ends fuller_adder_sum

.subckt fuller_adder_carry Carry VDD B A Cin
XX1 Cin B N007 VDD nand_gate
XX2 A Cin N005 VDD nand_gate
XX3 A B N001 VDD nand_gate
XX4 N001 VDD N002 inverter
XX5 N005 VDD N003 inverter
XX6 N007 VDD N006 inverter
XX7 N003 N002 N004 VDD or_gate
XX8 N006 N004 Carry VDD or_gate
.ends fuller_adder_carry

.subckt and_3 A B Cin VDD AND_3_OUT
XX1 A B N001 VDD nand_gate
XX2 N002 Cin N003 VDD nand_gate
XX3 N001 VDD N002 inverter
XX4 N003 VDD AND_3_OUT inverter
.ends and_3

.subckt or_gate A B Vout VDD
M5 N001 A_not 0 0 NMOS
M1 Vout A_not VDD VDD PMOS
M2 Vout B_not VDD VDD PMOS
M3 Vout B_not N001 N001 NMOS
XX3 B VDD B_not inverter
XX4 A VDD A_not inverter
.ends or_gate

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\colle\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 30m
.backanno
.end
